### PR TITLE
[Merged by Bors] - fix: non-defeq projections in `WithAbs`

### PR DESCRIPTION
**Pull request by smmercuri**
Previously the following fails
```lean
example (v : AbsoluteValue R ℝ) : (normedField v).toNormedCommRing.toNormedRing = (normedRing v) := by
  with_reducible_and_instances rfl
```

Fix requires removing `fast_instance%` from `normedRing` and adding `@[implicit_reducible]` to `AbsoluteValue.toNormedField`. 

Also remove out-of-date docstring.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by chrisflav — APPROVED** [review]
Thanks!
Could you please add a test?

File: MathlibTest/instance_diamonds/Analysis/Normed/Field/WithAbs.lean [hunk 1]
```diff
@@ -0,0 +1,5 @@
+import Mathlib.Analysis.Normed.Field.WithAbs
+
+example (v : AbsoluteValue R ℝ) :
+    (normedField v).toNormedCommRing.toNormedRing = (normedRing v) := by
```
Comment (chrisflav) [inline MathlibTest/instance_diamonds/Analysis/Normed/Field/WithAbs.lean]:
```suggestion
    (normedField v).toNormedCommRing.toNormedRing = normedRing v := by
```

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge
